US04929622
6,12-Dimethyl-1,2,3,4,5,6-hexahydro-3-(3-methyl-2-butenyl)-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine
To a stirred solution of 1.42 g of 6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine and 40 ml of dimethylformamide was added 1.54 ml of diisopropylethyl amine. The mixture was cooled to 0° C. and 0.97 g of 4-bromo-2-methyl-2-butene in 8 ml of dimethylformamide was added, under nitrogen. The mixture was stirred at 0° C. for an additional 1.25 hr, and was poured into water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate and ether. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate, filtered, and concentrated. The residue was purified by flash column chromatography (silica gel, 2% triethylamine/ethyl acetate) to afford 0.63 g (35%) of product, mp 62°-65° C.

reactant | 6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine | 1.42 g | CC12CC3=C(C=CCN1)C=C1C(C3)CC(N1)C2C | C16H22N2
reactant | diisopropylethyl amine | 1.54 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-2-methyl-2-butene | 0.97 g | BrCC=C(C)C | C5H9Br
reactant | water | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,12-Dimethyl-1,2,3,4,5,6-hexahydro-3-(3-methyl-2-butenyl)-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine | 0.63 g, 35% | CC12CC3=C(C=CCN1)C=C1C(C3)C(C(N1)C2C)CC=C(C)C | C21H30N2
